US07329668B2
A. 3-Acetamidomethyl-4-fluoro-1-trimethylstannylbenzene
A mixture of 3-aminomethyl-4-fluoro-1-trimethylstannylbenzene (505.4 mg, 1.76 mmol), Ac2O (215.3 μL, 2.28 mmol) and NEt3 (489 μL, 3.51 mmol) was stirred at room temperature in CH2Cl2 (18 mL). After 3 h, extractive EtOAc/H2O workup followed by flash chromatography (EtOAc/Hexanes, 40:60) provided the title compound (422 mg, 73%) as an oil. 1H NMR (DMSO, 400 MHz): 8.29 (br s, 1H), 7.41 (d, J=7.52 Hz, 1H), 7.45-7.30 (m, 1H), 7.14 (dd, J=10.9, 8.2 Hz, 1H), 4.27 (d, J=5.47 Hz, 2H), 1.85 (s, 3H), 0.26 (s, 9H).

reactant | 3-aminomethyl-4-fluoro-1-trimethylstannylbenzene | 1.76 mmol, 505.4 mg | NCC=1C=C(C=CC1F)[Sn](C)(C)C
reactant | Ac2O | 2.28 mmol, 215.3 μL | CC(=O)OC(=O)C | C4H6O3
reactant | NEt3 | 3.51 mmol, 489 μL | CCN(CC)CC | C6H15N
reactant | EtOAc H2O | CCOC(=O)C.O
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
product | 3-Acetamidomethyl-4-fluoro-1-trimethylstannylbenzene | 422 mg, 73% | C(C)(=O)NCC=1C=C(C=CC1F)[Sn](C)(C)C | InChI=1S/C9H9FNO.3CH3.Sn/c1-7(12)11-6-8-4-2-3-5-9(8)10;;;;/h3-5H,6H2,1H3,(H,11,12);3*1H3;
